US04575507
D. 3',4'-dihydro-3',4'-epoxyspiro[imidazolidine-4,1'(2'H)-naphthalene]2,5-dione
To a slurry of 2.7 g. (0.013 mole) of spiro[imidazolidine-4,1'(2'H)-naphthalene]-2,5-dione in 50 ml. of chloroform and 125 ml. of a 5% sodium bicarbonate solution was added 3.4 g. (0.016 mole) of m-chloroperbenzoic acid and the reaction mixture allowed to stir at room temperature for 3 hours. The reaction mixture was poured into 100 ml. of a 5% sodium bicarbonate solution and the product extracted with chloroform (2×75 ml.) and ethylacetate (2×75 ml.). The combined extracts were washed with a sodium bicarbonate solution and a brine solution, dried over sodium sulfate and concentrated to a yellow solid. Trituration with diethyl ether gave 1.6 g. (55% yield) of the desired product.

reactant | spiro[imidazolidine-4,1'(2'H)-naphthalene]-2,5-dione | 0.013 mole | C12(CC=CC3=CC=CC=C13)NC(NC2=O)=O | C12H10N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | m-chloroperbenzoic acid | 0.016 mole | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3',4'-dihydro-3',4'-epoxyspiro[imidazolidine-4,1'(2'H)-naphthalene]2,5-dione | 55% yield | O1C2CC3(C4=CC=CC=C4C21)NC(NC3=O)=O | C12H10N2O3
